US09255089B2
7-(6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)-6-(trifluoromethyl)quinoline 1-oxide
To a microwave vial containing 7-chloro-5-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one (100 mg, 0.36 mmol, 1 equiv.) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-(trifluoromethyl)quinolone (350 mg, 1.08 mmol, 3 equiv.), Cs2CO3 (704 mg, 2.16 mmol, 6 equiv.) and PEPPSI™-IPr catalyst (98 mg, 0.14 mmol, 0.4 equiv.) and dissolved in DME-H2O (4 mL, 0.2 M, 2/1, v/v). The mixture was heated to 120° C. for 30 min in microwave. The reaction was concentrated in vacuo and purification was carried out by reverse phase HPLC.

reactant | 7-chloro-5-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one | 0.36 mmol, 100 mg, 1 equiv. | ClC1=CC(=CC2=C1N(C(N2)=O)C)C=2C(=NOC2C)C | C13H12ClN3O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-(trifluoromethyl)quinolone | 1.08 mmol, 350 mg, 3 equiv. | CC1(OB(OC1(C)C)C1=C2C=CC(NC2=CC=C1C(F)(F)F)=O)C | C16H17BF3NO3
reactant | Cs2CO3 | 2.16 mmol, 704 mg, 6 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | IPr | 0.14 mmol, 98 mg, 0.4 equiv. | ICCC | C3H7I
solvent | DME H2O | COCCOC.O
product | 7-(6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)-6-(trifluoromethyl)quinoline 1-oxide | CC1=NOC(=C1C=1C=C(C2=C(NC(N2C)=O)C1)C1=C(C=C2C=CC=[N+](C2=C1)[O-])C(F)(F)F)C | C23H17F3N4O3
